* D:\pedro.lobo\Documents\Altium\LTSpice_Sims\Amplific_Dimming.asc
V2 V 0 12V
V3 InputTr 0 PULSE(0 2.5 0 0.9 0.1 0.01 1 10)
M1 V N003 DimO DimO FDS9934_N
XU2 InputPWM N001 V 0 N002 AD8031
R1 N003 N002 75R
I1 0 DimO 0.0002
R3 DimO N001 3kR
R4 N001 0 1kR
C1 N002 DimO 100nC
V1 InputPWM 0 PULSE(0 2.5 0 0.000001 0.000001 0.00005 0.0001 1000000000)
.model NMOS NMOS
.model PMOS PMOS
.lib D:\pedro.lobo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.lib ADI.lib
.backanno
.end
